US07132426B2
Step 1: Preparation of N-[4-Cyano-2-(4-methanesulfonyl-phenyl)-5-methyl-2H-pyrazol-3-yl]-acetamide.
To a 50 mL round-bottomed equipped with a reflux condenser and N2 inlet septum was placed a stir bar, 5-amino-1-(4-methanesulfonyl-phenyl)-3-methyl-1H-pyrazole-4-carbonitrile (85 mg, 0.31 mmol), and acetyl chloride (5 mL). The reaction mixture was stirred under N2 for 24 hrs at 60° C. The acetyl chloride was removed under reduced pressure and solid residue washed with CH2Cl2 and EtOAc and collected by filtration. The crude product was then purified by flash chromatography (EtOAc:Hex=1:1) and recrystalized from methanol. 55 mg of product was obtained (56% yield). 1H NMR (DMSO-d6, 400 MHz) δ 2.07 (s, 3H), 2.36 (s, 3H), 3.29 (s, 3H), 7.81 (d, 2H), 8.09 (d, 2H), 10.7 (s, 1H). LCMS: calculted C14H14N4O3S 318.08, observed 319.1 (MH+)

reactant | 5-amino-1-(4-methanesulfonyl-phenyl)-3-methyl-1H-pyrazole-4-carbonitrile | 0.31 mmol, 85 mg | NC1=C(C(=NN1C1=CC=C(C=C1)S(=O)(=O)C)C)C#N | C12H12N4O2S
reactant | acetyl chloride | 5 mL | C(C)(=O)Cl | C2H3ClO
product | N-[4-Cyano-2-(4-methanesulfonyl-phenyl)-5-methyl-2H-pyrazol-3-yl]-acetamide | 55 mg, 56% yield | C(#N)C1=C(N(N=C1C)C1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C14H14N4O3S
